2155-11-19 05:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pt confused overnight, but directable
   - underwent CT abd/pelvis
 read pends
   - bcx, urine pend
   - likely will need paracentesis this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2155-11-16**] 05:25 AM
   Vancomycin - [**2155-11-18**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-18**] 11:39 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-11-19**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 110 (104 - 114) bpm
   BP: 128/76(87) {117/57(60) - 162/76(91)} mmHg
   RR: 25 (21 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84 kg (admission): 84 kg
   Height: 64 Inch
             Total In:
                                                                    694 mL
                                                                    206 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    594 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    210 mL
   Urine:
                                                                    450 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    244 mL
                                                                     -4 mL
   Respiratory support
   SpO2: 96%
   ABG: ///16/
   Physical Examination
   Gen: Patient is oriented x 3 but sleepy, easily arousable, sever
   jaundice, icteric
   HEENT: NCAT, EOMI, PERRL. Icteric sclera. OP clear, MMM.
   Neck: difficult to assess JVP given prominent carotids
   Heart: tachycardic, regular rhythm, no m/r/g
   Lungs: Bibasilar crackles right greater than left
   Abd: soft +BS, distended, +fluid wave, non-tender
   Extrem: trace BLE edema, DP 2+
   Skin: very jaundiced
   Neuro: Strength is [**4-7**] in lower extremities and sensation is intact
   bilaterally. Mild asterexis is present.
   Labs / Radiology
   68 K/uL
   9.7 g/dL
   121 mg/dL
   2.0 mg/dL
   16 mEq/L
   3.7 mEq/L
   68 mg/dL
   113 mEq/L
   143 mEq/L
   27.7 %
   18.6 K/uL
        [image002.jpg]
                            [**2155-11-15**]  03:34 PM
                            [**2155-11-16**]  03:21 AM
                            [**2155-11-19**]  01:57 AM
   WBC
   14.6
   18.6
   Hct
   27.2
   27.7
   Plt
   66
   68
   Cr
   2.8
   2.0
   TCO2
   15
   Glucose
   139
   121
   Other labs: PT / PTT / INR:27.5/42.0/2.8, ALT / AST:101/131, Alk Phos /
   T Bili:94/44.1, Lactic Acid:1.8 mmol/L, Albumin:4.4 g/dL, LDH:337 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   53 year old female with hx of alcoholism presents with hepatic and
   renal failure.
   .
   # Worsening abdominal discomfort:  Concern for systemic infection or
   intra-abdominal infection such as resistant SBP. Attempted diagnositic
   tap X 3 without success, 3rd tap 5 cc bright red blood per floor team.
   On imaging the patient has a bilateral pneumonia which may have pleural
   involvement, which may be the etiology of her abdominal pain (referred
   pain). Currently we are treating for both SBP and PNA. CT A/P showed
   multifocal pneumonia and ascites, no evidence of intraabdominal
   bleeding.
   - continue treatment for SBP per liver recs
   - f/u blood and urine culture
   - ? need for diagnostic tap (it may not tell us anything new at this
   point, also currently covered on broad-spec abx)
   - continue vanco, zosyn
   .
   # Multilobar PNA: Tachypnea on admission. [**2155-11-17**] V/Q scan negative
   for PE. LENI negative for DVT.  Patient is most likely compensating for
   metabolic acidosis and distended abdomen.  On imaging patient has
   multifocal pneumonia (? Aspiration) which may also be part of the
   process causing tachypnea. Covering with broad spectrum antibiotics.
   -continue abx
   -f/u cultures
   -ABG if begins to decompensate
   .
   # Hepatic failure: Most likely cause is alcoholic hepatitis given the
   report of negative etiologies from OSH. Currently has pending hepatic
   work-up pending, labs that have returned include:
   CEA 5.8, AFP 1.8, Hep B negative, AMA/[**Doctor First Name **] negative, Hep C negative,
   ceruloplasmin negative, Ca [**65**]-9 elevated
   Ferritin significantly elevated at 1446, Iron 48, TIBC 47. AFP 1.8.
   Liver is continuing to follow, and feels her prognosis is getting worse
   secondary to worsening SBP. Will continue midodrine, octreotide,
   lactulose. At this point it is unclear if a diagnostic tap will help
   given she is on broad spectrum antibiotics and we have a good source of
   infection that could cause.
   - Pyridoxine 25 mg PO DAILY [**2155-11-18**] for alcoholic treatment
   - Expand SBP coverage to vanc and zosyn
   - lactulose tid for goal [**2-4**] BM, continue rifaximin
   - Treat HRS with daily albumin, octreotide SC and midodrine
   - f/u pending labs and cultures
   .
   # ARF: Given low urine Na and poor response to IVF, most likely
   hepatorenal syndrome.
   -Continue 1g/kg albumin daily, Octreotide SC and Midodrine
   -monitor UOP, Cr
   .
   # Anemia: Stable 24-26. Stool brown, guaiac negative. Patient has had
   no prior scopes to document varices.  It does not appear that she is
   actively bleeding at this point.
   - active type and screen
   - guaiac stools
   .
   # Alcoholism: No signs of withdrawal. On multivitamins, pyridoxine.
   -Con't Folate, thiamine, MVI
   .
   # GERD: Con't PPI
   .
   # FEN: renal diet, hypoK this am - has received total of 120 meq of K.
   .
   # PPx: pneumoboots for now pending procedures.
   .
   # Access: PIV
   .
   # Code: Full
   .
   # Communication: With patient, husband [**Name (NI) **] cell [**Telephone/Fax (1) 4406**]. Please
   do not share information with other members of the family.
   # Dispo: ICU care for now
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, RESPIRATORY
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2155-11-18**] 08:24 PM
   20 Gauge - [**2155-11-18**] 08:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-11-20 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2155-11-19**] 04:17 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-11-18**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-20**] 12:28 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-11-19**] 08:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-11-20**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 94 (92 - 109) bpm
   BP: 133/66(82) {85/55(68) - 143/78(87)} mmHg
   RR: 17 (17 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 84 kg
   Height: 64 Inch
          Total In:
                                                                  2,131 mL
                                                                    614 mL
   PO:
                                                                  1,000 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    686 mL
                                                                    164 mL
   Blood products:
                                                                    100 mL
                                                                     50 mL
   Total out:
                                                                  1,494 mL
                                                                  1,230 mL
   Urine:
                                                                  1,494 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   80 mL
   Balance:
                                                                    637 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///17/
   Physical Examination
   Gen: Patient is oriented x 3 but sleepy, easily arousable, sever
   jaundice, icteric
   HEENT: NCAT, EOMI, PERRL. Icteric sclera. OP clear, MMM.
   Neck: difficult to assess JVP given prominent carotids
   Heart: tachycardic, regular rhythm, no m/r/g
   Lungs: Bibasilar crackles right greater than left
   Abd: soft +BS, distended, +fluid wave, non-tender
   Extrem: trace BLE edema, DP 2+
   Skin: very jaundiced
   Neuro: Strength is [**4-7**] in lower extremities and sensation is intact
   bilaterally. Mild asterexis is present.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   67 K/uL
   9.5 g/dL
   119 mg/dL
   2.0 mg/dL
   17 mEq/L
   3.1 mEq/L
   74 mg/dL
   118 mEq/L
   149 mEq/L
   26.6 %
   18.8 K/uL
        [image002.jpg]
                            [**2155-11-15**]  03:34 PM
                            [**2155-11-16**]  03:21 AM
                            [**2155-11-19**]  01:57 AM
                            [**2155-11-19**]  02:53 PM
                            [**2155-11-20**]  05:10 AM
   WBC
   14.6
   18.6
   18.8
   Hct
   27.2
   27.7
   26.6
   Plt
   66
   68
   67
   Cr
   2.8
   2.0
   2.0
   TCO2
   15
   Glucose
   139
   121
   104
   119
   Other labs: PT / PTT / INR:27.5/42.0/2.8, ALT / AST:107/154, Alk Phos /
   T Bili:92/44.1, Lactic Acid:1.7 mmol/L, Albumin:4.4 g/dL, LDH:263 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   53 year old female with hx of alcoholism presents with hepatic and
   renal failure.
   .
   # Hepatic failure: Most likely cause is alcoholic hepatitis given the
   report of negative etiologies from OSH. Currently has pending hepatic
   work-up pending, labs that have returned include:
   CEA 5.8, AFP 1.8, Hep B negative, AMA/[**Doctor First Name **] negative, Hep C negative,
   ceruloplasmin negative, Ca [**65**]-9 elevated
   Ferritin significantly elevated at 1446, Iron 48, TIBC 47. AFP 1.8.
   Liver is continuing to follow, and feels her prognosis is getting worse
   secondary to worsening SBP. Will continue midodrine, octreotide,
   lactulose.
   - Pyridoxine 25 mg PO DAILY [**2155-11-18**] for alcoholic treatment
   - expanded SBP coverage to vanc and zosyn
   - lactulose tid for goal [**2-4**] BM, continue rifaximin
   - Treat HRS with daily albumin, octreotide SC and midodrine
   - f/u pending labs and cultures
   - will d/w liver/kidney about renal status and need for pentoxilfylline
   .
   # Multilobar PNA: Tachypnea on admission. [**2155-11-17**] V/Q scan negative
   for PE. LENI negative for DVT.  Patient is most likely compensating for
   metabolic acidosis and distended abdomen.  On imaging patient has
   multifocal pneumonia (? Aspiration) which may also be part of the
   process causing tachypnea. Covering with broad spectrum antibiotics.
   -continue abx
   -f/u cultures
   -ABG if begins to decompensate
   .
   # Worsening abdominal discomfort:  Concern for systemic infection or
   intra-abdominal infection such as resistant SBP. Attempted diagnositic
   tap X 3 without success, 3rd tap 5 cc bright red blood per floor team.
   On imaging the patient has a bilateral pneumonia which may have pleural
   involvement, which may be the etiology of her abdominal pain (referred
   pain). Currently we are treating for both SBP and PNA. CT A/P showed
   multifocal pneumonia and ascites, no evidence of intraabdominal
   bleeding on CT.  [**Month (only) 51**] perform additional paracentesis to assess fluid.
   - continue treatment for SBP per liver recs
   - f/u blood and urine culture
 currently negative
   - continue vanco, zosyn
   -may perform additional tap [**11-20**]
 diagnostic and therapeutic
   .
   #Mental Status
 pt with evidence of waxing/[**Doctor Last Name 533**] levels of
   consciousness with clear confusion in presence of liver failure
   suggestive of encephalopathy
   -lactulose TID
   -haldol/ativan prn with sensitivity to dosing for decreased renal fxn
   .
   # ARF: Given low urine Na and poor response to IVF.  ? of hepatorenal
   system.  Now Cr improving this AM, dysfunction may be related to other
   cause
   -Continue 1g/kg albumin daily, Octreotide SC and Midodrine
   -monitor UOP, Cr
   .
   # Anemia: Stable 24-26. Stool brown, guaiac negative. Patient has had
   no prior scopes to document varices.  It does not appear that she is
   actively bleeding at this point.
   - active type and screen
   - guaiac stools
   .
   # Alcoholism: No signs of withdrawal. On multivitamins, pyridoxine.
   -Con't Folate, thiamine, MVI
   .
   # GERD: Con't PPI
   .
   # FEN: renal diet, hypoK this am - has received total of 120 meq of K.
   .
   # PPx: pneumoboots
   .
   # Access: PIV
   .
   # Code: Full
   .
 .H/O PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, RESPIRATORY
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-11-18**] 08:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-11-21 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2155-11-20**] 05:53 PM
   Placed in IR
   - placed NG tube and began lactulose, other meds, and free water bolus.
   -hours later pt pulled out NG despite restraints and NG tube being
   taped to her forhead.
   -also pulled on flexiseal more than once
   -attempted para, but bowels very close to walls so decided to do para
   via IR instead
   -vanco level only 9, redosed vanco for improving renal  fxn
   - restarted D5W given rising NA
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-11-18**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-21**] 12:35 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2155-11-20**] 03:00 PM
   Haloperidol (Haldol) - [**2155-11-20**] 11:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-11-21**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96.1
   HR: 106 (82 - 114) bpm
   BP: 127/64(79) {95/49(60) - 145/89(92)} mmHg
   RR: 19 (18 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84 kg (admission): 84 kg
   Height: 64 Inch
             Total In:
                                                                  3,236 mL
                                                                    484 mL
   PO:
                                                                  1,800 mL
             TF:
   IVF:
                                                                  1,086 mL
                                                                    484 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                  2,425 mL
                                                                    410 mL
   Urine:
                                                                  1,945 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
                                                                     80 mL
   Balance:
                                                                    811 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///15/
   Physical Examination
   Gen: Patient is oriented x 3 but sleepy, easily arousable, sever
   jaundice, icteric
   HEENT: NCAT, EOMI, PERRL. Icteric sclera. OP clear, MMM.
   Neck: difficult to assess JVP given prominent carotids
   Heart: tachycardic, regular rhythm, no m/r/g
   Lungs: Bibasilar crackles right greater than left
   Abd: soft +BS, distended, +fluid wave, non-tender
   Extrem: trace BLE edema, DP 2+
   Skin: very jaundiced
   Neuro: Strength is [**4-7**] in lower extremities and sensation is intact
   bilaterally. Mild asterexis is present.
   Labs / Radiology
   54 K/uL
   9.5 g/dL
   129 mg/dL
   1.2 mg/dL
   15 mEq/L
   3.6 mEq/L
   75 mg/dL
   120 mEq/L
   149 mEq/L
   26.0 %
   20.9 K/uL
        [image002.jpg]
                            [**2155-11-15**]  03:34 PM
                            [**2155-11-16**]  03:21 AM
                            [**2155-11-19**]  01:57 AM
                            [**2155-11-19**]  02:53 PM
                            [**2155-11-20**]  05:10 AM
                            [**2155-11-20**]  07:42 PM
                            [**2155-11-21**]  03:12 AM
   WBC
   14.6
   18.6
   18.8
   20.9
   Hct
   27.2
   27.7
   26.6
   26.0
   Plt
   66
   68
   67
   54
   Cr
   2.8
   2.0
   2.0
   1.5
   1.5
   1.2
   TCO2
   15
   Glucose
   139
   121
   104
   119
   126
   129
   Other labs: PT / PTT / INR:27.6/49.8/2.8, ALT / AST:119/178, Alk Phos /
   T Bili:90/45.4, Lactic Acid:1.7 mmol/L, Albumin:4.4 g/dL, LDH:249 IU/L,
   Ca++:9.9 mg/dL, Mg++:2.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   53 year old female with hx of alcoholism presents with hepatic and
   renal failure.
   .
   # Hepatic failure: Most likely cause is alcoholic hepatitis given the
   report of negative etiologies from OSH. Currently has pending hepatic
   work-up pending, labs that have returned include:
   CEA 5.8, AFP 1.8, Hep B negative, AMA/[**Doctor First Name **] negative, Hep C negative,
   ceruloplasmin negative, Ca [**65**]-9 elevated
   Ferritin significantly elevated at 1446, Iron 48, TIBC 47. AFP 1.8.
   Liver is continuing to follow, and feels her prognosis is getting worse
   secondary to worsening SBP. Will continue midodrine, octreotide,
   lactulose, pentoxilfylline
   - Pyridoxine 25 mg PO DAILY [**2155-11-18**] for alcoholic treatment
   - expanded SBP coverage to vanc and zosyn
   - lactulose tid for goal [**2-4**] BM, continue rifaximin
   - Treat HRS with daily albumin, octreotide SC, midodrine, and
   pentoxifylline
   - cont following labs and cultures
   .
   # PNA: Tachypnea on admission. [**2155-11-17**] V/Q scan negative for PE. LENI
   negative for DVT.  Patient is most likely compensating for metabolic
   acidosis and distended abdomen.  On imaging patient has multifocal
   pneumonia (? Aspiration) which may also be part of the process causing
   tachypnea.  Aslo with waxing [**Doctor Last Name 533**] periods of consciousness.  Sputum
   growing oropharyngeal flora. Covering with broad spectrum antibiotics.
   -continue abx
   -f/u cultures
   -ABG if begins to decompensate
   -will d/w liver the possibility of intubation
   .
   # Hypernatremia
 slowly increasing Na over the past week.  Attempted
   to increase free water boluses via NGT, pt auto
d NGT, switched to
   D5W.
   - will check PM lytes, adjust IVF
   .
   # Abdominal discomfort:  Concern for systemic infection or
   intra-abdominal infection such as resistant SBP. Attempted diagnositic
   tap X 3 without success, 3rd tap 5 cc bright red blood per floor team.
   On imaging the patient has a bilateral pneumonia which may have pleural
   involvement, which may be the etiology of her abdominal pain (referred
   pain). Currently we are treating for both SBP and PNA. CT A/P showed
   multifocal pneumonia and ascites, no evidence of intraabdominal
   bleeding on CT.  IR to attempt additional paracentesis to assess fluid,
   if unable hepatology is available for addt
l attempt.
   -continue treatment for SBP per liver recs
   -f/u blood and urine culture
 currently negative
   -continue vanco, zosyn
   -awaiting additional tap [**11-21**]
 diagnostic and therapeutic
   .
   #Mental Status
 pt with evidence of waxing/[**Doctor Last Name 533**] levels of
   consciousness with clear confusion in presence of liver failure
   suggestive of encephalopathy
   -lactulose TID
   -haldol/ativan prn with sensitivity to dosing for decreased renal fxn
   .
   # ARF: Given low urine Na and poor response to IVF.  ? of hepatorenal
   system.  Now Cr improving this AM, dysfunction may be related to other
   cause
   -Continue 25g [**Hospital1 7**] albumin daily, Octreotide SC and Midodrine
   -monitor UOP, Cr
   .
   # Anemia: Stable 24-26. Stool brown, guaiac negative. Patient has had
   no prior scopes to document varices.  It does not appear that she is
   actively bleeding at this point.
   - repeat type and screen
   .
   # Alcoholism: No signs of withdrawal. On multivitamins, pyridoxine.  No
   acute issues.
   -Con't Folate, thiamine, MVI
   .
   # GERD: Con't PPI
   .
   # FEN: tube feeds, hypoK this am
 recv
d 40 meq K
   .
   # PPx: pneumoboots
   .
   # Access: PICC
   .
   # Code: Full
   .
 HYPERNATREMIA (HIGH SODIUM)
 .H/O PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, RESPIRATORY
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-11-18**] 08:25 PM
   PICC Line - [**2155-11-20**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-11-22 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2155-11-21**] 02:00 PM
   Diagnostic paracentesis in ultrasound. ~400cc drained.
 INVASIVE VENTILATION - START [**2155-11-21**] 06:44 PM
   - had paracentesis performed by IR y/d - fluid with significant amount
   of WBCs
   - had CT scan of abd/pelvis - no hemorrhage, radiologist states limited
   study - complete disconnect b/w techs and radiologist - ICU nurses
   instructed to bring pt down sans contrast
   - intubated to protect airway with concern for continuing aspiration
   - sedated with propofol/versed was briefly hypotensive, sedated, turned
   drips off will reassess this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-11-21**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-22**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-11-21**] 08:00 AM
   Lorazepam (Ativan) - [**2155-11-22**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-11-22**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 117 (101 - 123) bpm
   BP: 135/57(77) {83/50(69) - 156/103(139)} mmHg
   RR: 21 (17 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84 kg (admission): 84 kg
   Height: 64 Inch
             Total In:
                                                                  3,857 mL
                                                                    694 mL
   PO:
             TF:
   IVF:
                                                                  3,302 mL
                                                                    694 mL
   Blood products:
                                                                    555 mL
   Total out:
                                                                  2,015 mL
                                                                    560 mL
   Urine:
                                                                  2,015 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,842 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 544 (542 - 544) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 91
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: ///15/
   Ve: 12.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   44 K/uL
   9.5 g/dL
   558 mg/dL
   1.6 mg/dL
   15 mEq/L
   3.1 mEq/L
   62 mg/dL
   106 mEq/L
   133 mEq/L
   21.0 %
   15.4 K/uL
        [image002.jpg]
                            [**2155-11-15**]  03:34 PM
                            [**2155-11-16**]  03:21 AM
                            [**2155-11-19**]  01:57 AM
                            [**2155-11-19**]  02:53 PM
                            [**2155-11-20**]  05:10 AM
                            [**2155-11-20**]  07:42 PM
                            [**2155-11-21**]  03:12 AM
                            [**2155-11-21**]  10:00 AM
                            [**2155-11-21**]  04:23 PM
                            [**2155-11-22**]  04:08 AM
   WBC
   14.6
   18.6
   18.8
   20.9
   15.4
   Hct
   27.2
   27.7
   26.6
   26.0
   21.0
   Plt
   66
   68
   67
   54
   44
   Cr
   2.8
   2.0
   2.0
   1.5
   1.5
   1.2
   1.8
   1.6
   TCO2
   15
   Glucose
   139
   121
   104
   119
   126
   129
   128
   86
   558
   Other labs: PT / PTT / INR:26.3/56.2/2.6, ALT / AST:106/165, Alk Phos /
   T Bili:81/39.4, Differential-Neuts:90.6 %, Band:0.0 %, Lymph:5.4 %,
   Mono:2.2 %, Eos:1.6 %, Lactic Acid:1.7 mmol/L, Albumin:4.4 g/dL,
   LDH:216 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   53 year old female with hx of alcoholism presents with hepatic and
   renal failure.
   .
   # Hepatic failure: Most likely cause is alcoholic hepatitis given the
   report of negative etiologies from OSH. Currently has pending hepatic
   work-up pending, labs that have returned include:
   CEA 5.8, AFP 1.8, Hep B negative, AMA/[**Doctor First Name **] negative, Hep C negative,
   ceruloplasmin negative, Ca [**65**]-9 elevated
   Ferritin significantly elevated at 1446, Iron 48, TIBC 47. AFP 1.8.
   Liver is continuing to follow, and feels her prognosis is getting worse
   secondary to worsening SBP. Will continue midodrine, octreotide,
   lactulose, pentoxilfylline
   - Pyridoxine 25 mg PO DAILY [**2155-11-18**] for alcoholic treatment
   - expanded SBP coverage to vanc and zosyn
   - lactulose tid for goal [**2-4**] BM, continue rifaximin
   - Treat HRS with daily albumin, octreotide SC, midodrine, and
   pentoxifylline
   - cont following labs and cultures
   .
   # PNA: Tachypnea on admission. [**2155-11-17**] V/Q scan negative for PE. LENI
   negative for DVT.  Patient is most likely compensating for metabolic
   acidosis and distended abdomen.  On imaging patient has multifocal
   pneumonia (? Aspiration) which may also be part of the process causing
   tachypnea.  Aslo with waxing [**Doctor Last Name 533**] periods of consciousness.  Sputum
   growing oropharyngeal flora. Covering with broad spectrum antibiotics.
   -continue abx
   -f/u cultures
   -ABG if begins to decompensate
   -will d/w liver the possibility of intubation
   .
   # Hypernatremia
 slowly increasing Na over the past week.  Attempted
   to increase free water boluses via NGT, pt auto
d NGT, switched to
   D5W.
   - will check PM lytes, adjust IVF
   .
   # Abdominal discomfort:  Concern for systemic infection or
   intra-abdominal infection such as resistant SBP. Attempted diagnositic
   tap X 3 without success, 3rd tap 5 cc bright red blood per floor team.
   On imaging the patient has a bilateral pneumonia which may have pleural
   involvement, which may be the etiology of her abdominal pain (referred
   pain). Currently we are treating for both SBP and PNA. CT A/P showed
   multifocal pneumonia and ascites, no evidence of intraabdominal
   bleeding on CT.  IR to attempt additional paracentesis to assess fluid,
   if unable hepatology is available for addt
l attempt.
   -continue treatment for SBP per liver recs
   -f/u blood and urine culture
 currently negative
   -continue vanco, zosyn
   -awaiting additional tap [**11-21**]
 diagnostic and therapeutic
   .
   #Mental Status
 pt with evidence of waxing/[**Doctor Last Name 533**] levels of
   consciousness with clear confusion in presence of liver failure
   suggestive of encephalopathy
   -lactulose TID
   -haldol/ativan prn with sensitivity to dosing for decreased renal fxn
   .
   # ARF: Given low urine Na and poor response to IVF.  ? of hepatorenal
   system.  Now Cr improving this AM, dysfunction may be related to other
   cause
   -Continue 25g [**Hospital1 7**] albumin daily, Octreotide SC and Midodrine
   -monitor UOP, Cr
   .
   # Anemia: Stable 24-26. Stool brown, guaiac negative. Patient has had
   no prior scopes to document varices.  It does not appear that she is
   actively bleeding at this point.
   - repeat type and screen
   .
   # Alcoholism: No signs of withdrawal. On multivitamins, pyridoxine.  No
   acute issues.
   -Con't Folate, thiamine, MVI
   .
   # GERD: Con't PPI
   .
   # FEN: tube feeds, hypoK this am
 recv
d 40 meq K
   .
   # PPx: pneumoboots
   .
   # Access: PICC
   .
   # Code: Full
 HYPERNATREMIA (HIGH SODIUM)
 .H/O PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, RESPIRATORY
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2155-11-20**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-11-23 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -per ID caspofungin for 5 day course
   -checked bladder pressure: 13
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-22**] 02:00 PM
   Caspofungin - [**2155-11-22**] 05:00 PM
   Vancomycin - [**2155-11-22**] 10:13 PM
   Metronidazole - [**2155-11-23**] 12:29 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2155-11-22**] 06:54 AM
   Pantoprazole (Protonix) - [**2155-11-22**] 08:00 AM
   Other medications:
   Caspofugnin
   flagyl
   albumin
   albuterol
   propofol
   octreotide
   midodrine
   lorazepam
   zosyn
   lactulose
   vanco
   pyridoxine
   rifaximin
   mvi
   thiamine
   folic acid
   protonix
   zofran
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-11-23**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 111 (96 - 112) bpm
   BP: 117/85(91) {113/47(62) - 142/95(105)} mmHg
   RR: 23 (19 - 30) insp/min
   SpO2: 100% (95-100)
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84 kg (admission): 84 kg
   Height: 64 Inch
           Total In:
                                                                  3,948 mL
                                                                  1,142 mL
   PO:
           TF:
                                                                     56 mL
                                                                    131 mL
   IVF:
                                                                  3,602 mL
                                                                    521 mL
   Blood products:
                                                                    200 mL
                                                                    100 mL
   Total out:
                                                                  1,430 mL
                                                                    265 mL
   Urine:
                                                                  1,430 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,518 mL
                                                                    877 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 531 (505 - 531) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: ///16/
   Ve: 8.8 L/min
   Physical Examination
   Gen: Patient is intubated and sedated, moving all 4 ext
   HEENT: NCAT, PERRL sclera edema. Icteric sclera., MMM.
   Neck: difficult to assess JVP given prominent carotids
   Heart: tachycardic, regular rhythm, no m/r/g
   Lungs: L> R coarse BS
   Abd:increasingly distended, +fluid wave, grimacing to palpation
   Extrem: trace BLE edema, DP 2+
   Skin: very jaundiced
   Neuro: Strength is [**4-7**] in lower extremities and sensation is intact
   bilaterally. Mild asterexis is present.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   7.5 g/dL
   139 mg/dL
   1.4 mg/dL
   16 mEq/L
   3.4 mEq/L
   66 mg/dL
   117 mEq/L
   145 mEq/L
   17.5 %
   18.8 K/uL
        [image002.jpg]
   Repeat HCT 23
   WBC: 19.8
   plt 45
   [**11-15**] blood NG, [**11-18**], 17 pending
   [**11-15**], [**11-18**] urine NG
   [**11-19**] cdiff neg, [**11-23**] pending
   [**11-22**] sputum no organisms on GS,
   [**11-22**] mini-BAL 1+ polys
   LFTs downtrending
   .
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
                                   Mesothe
                                   Macroph
   [1][**2155-11-21**] 03:08PM
                                    5250*
                                    5750*
                                     72*
                                     6*
                                     19*
                                     1*
                                     2*
   [2][**2155-11-15**] 10:47PM
                                    1325*
                                    525*
                                   90*[1]
                                     6*
                                      0
                                     2*
                                     2*
   1.        MICROORGANISMS SEEN, CANNOT RULE OUT CONTAMINATION. REFER TO
   MICROBIOLOGY REPORT
   REVIEWED BY [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 4493**] [**2155-11-17**]
   [3][image003.gif]  ASCITES CHEMISTRY
                                   TotPro
                                   Glucose
                                   LD(LDH)
                                   Albumin
   [4][**2155-11-21**] 03:08PM
                                     1.7
                                     114
                                     265
                                     1.6
   [5][**2155-11-15**] 10:47PM
                                   795[1]
   LESS THAN [2]
   1.        VERIFIED BY DILUTION
   2.        LESS THAN 1
   VERIFIED BY REPLICATE ANALYSIS
                            [**2155-11-20**]  05:10 AM
                            [**2155-11-20**]  07:42 PM
                            [**2155-11-21**]  03:12 AM
                            [**2155-11-21**]  10:00 AM
                            [**2155-11-21**]  04:23 PM
                            [**2155-11-22**]  04:08 AM
                            [**2155-11-22**]  05:20 AM
                            [**2155-11-22**]  08:20 AM
                            [**2155-11-22**]  04:00 PM
                            [**2155-11-23**]  03:22 AM
   WBC
   18.8
   20.9
   15.4
   16.7
   18.8
   Hct
   26.6
   26.0
   21.0
   25.0
   17.5
   Plt
   67
   54
   44
   40
   48
   Cr
   1.5
   1.5
   1.2
   1.8
   1.6
   2.3
   2.4
   1.4
   Glucose
   119
   126
   129
   128
   86
   558
   130
   106
   139
   Other labs: PT / PTT / INR:28.8/63.2/2.9, ALT / AST:97/146, Alk Phos /
   T Bili:81/38.3, Differential-Neuts:90.6 %, Band:0.0 %, Lymph:5.4 %,
   Mono:2.2 %, Eos:1.6 %, Lactic Acid:1.0 mmol/L, Albumin:4.0 g/dL,
   LDH:197 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   53 year old female with hx of alcoholism presents with hepatic and
   renal failure.
   .
   # Hepatic failure: Most likely cause is alcoholic hepatitis given the
   report of negative etiologies from OSH. Currently has pending hepatic
   work-up pending, labs that have returned include:
   CEA 5.8, AFP 1.8, Hep B negative, AMA/[**Doctor First Name **] negative, Hep C negative,
   ceruloplasmin negative, Ca [**65**]-9 elevated to > 400
   Ferritin significantly elevated at 1446, Iron 48, TIBC 47. AFP 1.8.
   Liver is continuing to follow, and feels her prognosis is getting worse
   secondary to worsening SBP. Will continue midodrine, octreotide,
   lactulose, d/c
ing pentoxilfylline.  Tbili is improving
   - Pyridoxine 25 mg PO DAILY [**2155-11-18**] for alcoholic treatment
   - lactulose tid for goal [**2-4**] BM, continue rifaximin
   - Treat HRS with daily, octreotide SC, midodrine. Will ask GI
   regaurding length of albumin therapy
   - cont following labs and cultures
   -still with significant leak from previous para sites, pressure
   dressing
   .
   # PNA: Tachypnea on admission. [**2155-11-17**] V/Q scan negative for PE. LENI
   negative for DVT.  Patient is most likely compensating for metabolic
   acidosis and distended abdomen.  On imaging patient has multifocal
   pneumonia (? Aspiration) which may also be part of the process causing
   tachypnea.  Also with waxing [**Doctor Last Name 533**] periods of consciousness prior to
   intubation. Sputum growing oropharyngeal flora. Covering with broad
   spectrum antibiotics.  Intubated [**11-21**] and showed large amount of
   aspirate surrounding vocal cords. Intubated for free no longer able to
   clear secretions.
   -continue abx, vanc and zosyn
   -f/u cultures
   -check ABG this am.
   .
   # Peritonitis: tx
d for SBP, now concern for bowel injury s/p multiple
   attempts at paracentesis 2 days ago.  IR performed additional
   paracentesis [**11-21**] to assess fluid. Appears increasingly distended
   - CT scan negative for blood or loculations, but IR paracentesis shows
   high WBC count. Removed only 320 cc fluid
   - expanded suspected peritonitis coverage to vanc, zosyn, and adding
   flagyl for broader anaerobic coverage, caspo for fungal coverage
   .
   # Hypernatremia
 slowly increasing Na over the past week.  Continue
   free water boluses via NGT
   .
   #Mental Status
 pt with evidence of waxing/[**Doctor Last Name 533**] levels of
   consciousness with clear confusion in presence of liver failure
   suggestive of encephalopathy. Since intubated and sedated.
   -lactulose TID
   -propofol/ativan prn for sedation, sensitivity to dosing for decreased
   renal fxn
   .
   # ARF: Given low urine Na and poor response to IVF.  Hepatorenal
   syndrome with fluctuating Cr
   -Continue Octreotide SC and Midodrine . Will ask GI about continuing
   alb dose
   -monitor UOP, Cr
   .
   # Anemia: Had been Stable 24-26. Stool brown, guaiac negative. Patient
   has had no prior scopes to document varices.  It does not appear that
   she is actively bleeding at this point.  Had HCT of 17.5 this am, on
   repeat 23
   -          Pm HCT
   -          Guaiac stools
   .
   # Alcoholism: No signs of withdrawal. On multivitamins, pyridoxine.  No
   acute issues.
   -Con't Folate, thiamine, MVI
   .
   # GERD: Con't PPI
   .
   # FEN: tube feeds being held, high residuals, plan to restart at lower
   rate, replete lytes prn
   .
   # PPx: pneumoboots
   .
   # Access: PICC
   .
   # Code: Full
 HYPERNATREMIA (HIGH SODIUM)
 .H/O PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, RESPIRATORY
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2155-11-22**] 06:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2155-11-20**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. javascript:command('LCAA','expand')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);

2155-11-24 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2155-11-23**] 11:24 PM
   -HCT 17.5 to 23 to 20. Transfused 2 u prbc
   - UOP decreased. bladder pressure 11
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2155-11-23**] 10:26 AM
   Vancomycin - [**2155-11-23**] 08:27 PM
   Metronidazole - [**2155-11-24**] 12:59 AM
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-24**] 04:17 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-11-24**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 109 (93 - 116) bpm
   BP: 98/52(69) {72/37(50) - 118/54(72)} mmHg
   RR: 22 (9 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84 kg (admission): 84 kg
   Height: 64 Inch
    Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  3,408 mL
                                                                    961 mL
   PO:
   TF:
                                                                    577 mL
   IVF:
                                                                  1,927 mL
                                                                    395 mL
   Blood products:
                                                                    454 mL
                                                                    446 mL
   Total out:
                                                                  1,400 mL
                                                                    945 mL
   Urine:
                                                                    550 mL
                                                                     95 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  2,008 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 628 (546 - 628) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/27/159/13/-10
   Ve: 11.3 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Gen: Patient is intubated and sedated, moving all 4 ext
   HEENT: NCAT, PERRL sclera edema. Icteric sclera., MMM.
   Neck: difficult to assess JVP given prominent carotids
   Heart: tachycardic, regular rhythm, no m/r/g
   Lungs: L> R coarse BS
   Abd:increasingly distended, +fluid wave, grimacing to palpation
   Extrem: trace BLE edema, DP 2+
   Skin: very jaundiced
   Neuro: Strength is [**4-7**] in lower extremities and sensation is intact
   bilaterally. Mild asterexis is present.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   43 K/uL
   8.2 g/dL
   94 mg/dL
   2.8 mg/dL
   13 mEq/L
   4.0 mEq/L
   72 mg/dL
   117 mEq/L
   145 mEq/L
   23.1 %
   17.0 K/uL
        [image002.jpg]
                            [**2155-11-22**]  08:20 AM
                            [**2155-11-22**]  04:00 PM
                            [**2155-11-23**]  03:22 AM
                            [**2155-11-23**]  06:52 AM
                            [**2155-11-23**]  04:25 PM
                            [**2155-11-24**]  12:13 AM
                            [**2155-11-24**]  01:49 AM
                            [**2155-11-24**]  02:59 AM
                            [**2155-11-24**]  03:35 AM
                            [**2155-11-24**]  06:23 AM
   WBC
   16.7
   18.8
   19.8
   20.7
   17.0
   Hct
   25.0
   17.5
   23.0
   20.0
   23.1
   Plt
   40
   48
   45
   50
   43
   Cr
   2.4
   1.4
   2.0
   2.8
   TCO2
   16
   15
   14
   15
   Glucose
   106
   139
   113
   94
   Other labs: PT / PTT / INR:30.8/64.8/3.2, ALT / AST:97/146, Alk Phos /
   T Bili:81/38.3, Differential-Neuts:90.6 %, Band:0.0 %, Lymph:5.4 %,
   Mono:2.2 %, Eos:1.6 %, Lactic Acid:1.2 mmol/L, Albumin:4.0 g/dL,
   LDH:197 IU/L, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   53 year old female with hx of alcoholism presents with hepatic and
   renal failure.
   .
   # Respiratory Failure: Tachypnea on admission. [**2155-11-17**] V/Q scan
   negative for PE. LENI negative for DVT.  Patient is most likely
   compensating for metabolic acidosis and distended abdomen.  On imaging
   patient has multifocal pneumonia (? Aspiration) which may also be part
   of the process causing tachypnea.  Also with waxing [**Doctor Last Name 533**] periods of
   consciousness prior to intubation. Sputum growing oropharyngeal flora.
   Covering with broad spectrum antibiotics.  Intubated [**11-21**] and showed
   large amount of aspirate surrounding vocal cords. Intubated b/c unable
   to clear secretions.
   -continue abx, vanc and zosyn in tx for PNA
   -f/u cultures
   -check ABGs in AM
   .
   # Infectious w/u: tx
d for SBP, now concern for bowel injury s/p
   multiple attempts at paracentesis 2 days ago, also with multifocal
   PNA.  IR performed additional paracentesis [**11-21**] to assess fluid.
   Appears increasingly distended with fluid wave.  CXR with min
   improvement.
   - CT scan negative for blood or loculations, but IR paracentesis shows
   high WBC count. Removed only 320 cc fluid
   - expanded suspected peritonitis coverage to vanc, zosyn, and adding
   flagyl for broader anaerobic coverage, caspo for fungal coverage
   - abx appropriately covering PNA
   .
   # Hepatic failure: Most likely cause is alcoholic hepatitis given the
   report of negative etiologies from OSH. Currently has pending hepatic
   work-up pending, labs that have returned include:
   CEA 5.8, AFP 1.8, Hep B negative, AMA/[**Doctor First Name **] negative, Hep C negative,
   ceruloplasmin negative, Ca [**65**]-9 elevated to > 400
   Ferritin significantly elevated at 1446, Iron 48, TIBC 47. AFP 1.8.
   Liver is continuing to follow, and feels her prognosis is getting worse
   secondary to worsening SBP. Will continue midodrine, octreotide,
   lactulose, d/c
ing pentoxilfylline.  Tbili is improving
   - Pyridoxine 25 mg PO DAILY [**2155-11-18**] for alcoholic treatment
   - lactulose tid for goal [**2-4**] BM, continue rifaximin
   - Treat HRS with daily, octreotide SC, midodrine. Will ask GI
   regaurding length of albumin therapy
   - cont following labs and cultures
   -still with significant leak from previous para sites, pressure
   dressing
   .
   .
   .
   # Hypernatremia
 slowly increasing Na over the past week.  Continue
   free water boluses via NGT
   .
   #Mental Status
 pt with evidence of waxing/[**Doctor Last Name 533**] levels of
   consciousness with clear confusion in presence of liver failure
   suggestive of encephalopathy. Since intubated and sedated.
   -lactulose TID
   -propofol/ativan prn for sedation, sensitivity to dosing for decreased
   renal fxn
   .
   # ARF: Given low urine Na and poor response to IVF.  Hepatorenal
   syndrome with fluctuating Cr
   -Continue Octreotide SC and Midodrine . Will ask GI about continuing
   alb dose
   -monitor UOP, Cr
   .
   # Anemia: Had been Stable 24-26. Stool brown, guaiac negative. Patient
   has had no prior scopes to document varices.  It does not appear that
   she is actively bleeding at this point.  Had HCT of 17.5 this am, on
   repeat 23
   -          Pm HCT
   -          Guaiac stools
   .
   # Alcoholism: No signs of withdrawal. On multivitamins, pyridoxine.  No
   acute issues.
   -Con't Folate, thiamine, MVI
   .
   # GERD: Con't PPI
   .
   # FEN: tube feeds being held, high residuals, plan to restart at lower
   rate, replete lytes prn
   .
   # PPx: pneumoboots
   .
   # Access: PICC
   .
   # Code: Full
 ALTERATION IN NUTRITION
 HYPERNATREMIA (HIGH SODIUM)
 .H/O PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, RESPIRATORY
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2155-11-20**] 05:53 PM
   20 Gauge - [**2155-11-23**] 08:38 PM
   Arterial Line - [**2155-11-23**] 11:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-11-25 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2155-11-24**] 04:25 PM
 FEVER - 102.2
F - [**2155-11-24**] 04:00 PM
   - Tachycardic, fever of 102 in PM, pan cultured
   - hypotensive, decreased UOP, given 2L NS with no response, started
   levophed
   - UOP TBD
   - pressures coming up
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-11-23**] 08:27 PM
   Caspofungin - [**2155-11-24**] 09:00 AM
   Piperacillin - [**2155-11-24**] 06:00 PM
   Metronidazole - [**2155-11-24**] 11:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-25**] 02:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 5 mcg/Kg/min
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2155-11-24**] 03:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-11-25**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 35.8
C (96.4
   HR: 88 (84 - 131) bpm
   BP: 119/58(78) {75/37(51) - 119/63(81)} mmHg
   RR: 21 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 84 kg
   Height: 64 Inch
             Total In:
                                                                  4,014 mL
                                                                    310 mL
   PO:
             TF:
   IVF:
                                                                  3,448 mL
                                                                    310 mL
   Blood products:
                                                                    446 mL
   Total out:
                                                                  1,835 mL
                                                                    600 mL
   Urine:
                                                                    265 mL
                                                                    190 mL
   NG:
                                                                  1,320 mL
                                                                    110 mL
   Stool:
   300 mL
   Drains:
   Balance:
                                                                  2,179 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 121 (121 - 525) mL
   PS : 0 cmH2O
   RR (Set): 22
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 31
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.30/26/135/11/-11
   Ve: 11.4 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Gen: Patient is intubated and sedated, moving all 4 ext
   HEENT: NCAT, PERRL scleral edema. Icteric sclera., MMM.
   Neck: difficult to assess JVP given prominent carotids
   Heart: tachycardic, regular rhythm
   Lungs: coarse BS, good aeration
   Abd: distended, nontender
   Extrem: trace BLE edema, DP 2+
   Skin: jaundiced
   Neuro: sedated, moves extremities but not purposeful, does not open
   eyes to voice.
   Labs / Radiology
   65 K/uL
   9.2 g/dL
   93 mg/dL
   3.4 mg/dL
   11 mEq/L
   4.2 mEq/L
   83 mg/dL
   120 mEq/L
   149 mEq/L
   26.2 %
   20.0 K/uL
        [image002.jpg]
                            [**2155-11-23**]  04:25 PM
                            [**2155-11-24**]  12:13 AM
                            [**2155-11-24**]  01:49 AM
                            [**2155-11-24**]  02:59 AM
                            [**2155-11-24**]  03:35 AM
                            [**2155-11-24**]  06:01 AM
                            [**2155-11-24**]  06:23 AM
                            [**2155-11-24**]  12:15 PM
                            [**2155-11-24**]  03:59 PM
                            [**2155-11-25**]  03:14 AM
   WBC
   20.7
   17.0
   20.0
   Hct
   20.0
   23.1
   23.0
   27.0
   26.2
   Plt
   50
   43
   65
   Cr
   2.0
   2.8
   3.4
   TCO2
   16
   15
   14
   15
   13
   Glucose
   113
   94
   93
   Other labs: PT / PTT / INR:34.2/75.8/3.5, ALT / AST:97/146, Alk Phos /
   T Bili:81/38.3, Differential-Neuts:90.6 %, Band:0.0 %, Lymph:5.4 %,
   Mono:2.2 %, Eos:1.6 %, Lactic Acid:1.2 mmol/L, Albumin:4.0 g/dL,
   LDH:197 IU/L, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL, PO4:6.0 mg/dL
   UA negative, Ucx and lytes pending
   Assessment and Plan
   53 year old female with hx of alcoholism presents with hepatic and
   renal failure.
   .
   # Respiratory Failure: Tachypnea on admission. [**2155-11-17**] V/Q scan
   negative for PE. LENI negative for DVT.  Intubated for worsening mental
   status. She is also compensating for worsening metabolic acidosis.  On
   imaging patient has multifocal pneumonia which may also be part of the
   process causing tachypnea. Sputum samples have only shown oropharyngeal
   flora. Covering with broad spectrum antibiotics for possible
   aspiration.  Intubated [**11-21**] and had large amount of aspirate
   surrounding vocal cords, continued to have large amount of secretions
   which prevented extubation. She is currently doing much better on
   minimal pressure support. However given her worsening clinical status
   we may not be able to extubate at this time. Family meeting regarding
   goals of care will guide our decision-making at this point in regards
   to her extubation and treatment.
   -continue abx, vanc and zosyn in tx for PNA
   -f/u cultures
   -continue PS
   .
   # Hepatic failure: Most likely cause is alcoholic hepatitis. Currently
   has pending hepatic work-up pending, labs that have returned include:
   CEA 5.8, AFP 1.8, Hep B negative, AMA/[**Doctor First Name **] negative, Hep C negative,
   ceruloplasmin negative, Ca [**65**]-9 elevated to > 400 Ferritin
   significantly elevated at 1446, Iron 48, TIBC 47. AFP 1.8. Will
   continue midodrine, octreotide, lactulose.  While her liver function
   has been stable over the last several days, her renal function is
   rapidly deteriorating, likely secondary to hepatorenal syndrome.
   - continue daily albumin, octreotide SC, midodrine
   - lactulose tid for goal [**2-4**] BM, continue rifaximin
   - pyridoxine 25 mg daily
   - cont following labs and cultures
   -liver recs if any
   .
   # ARF: Renal function has been worsening over the last couple of days,
   likely secondary to hepatorenal syndrome. Lasix initially then pressors
   have not improved her urine outcome. At this point it is unlikely that
   she is a HD candidate. This is also likely the reason for her
   hyperphosphatemia, for which she is receiving phos binders. At this
   time, we will continue midodrine and octreotide, treat with IV
   hydration and continue pressors. Her goals of care should be discussed
   at this point.
   -phos binders
   -monitor K and electrolytes this PM
   -continue pressors for now
   -monitor UOP
   -Ulytes, eos to r/o other etiologies of renal insufficiency
   .
   # Metabolic acidosis: AG 16, likely secondary to renal failure. Will
   continue to treat as above w/D5W, no indication for bicarb at this time
   given her hypernatremia.
   .
   # Hypernatremia
D5W 100cc/hr for 1L
   .
   #Mental Status
 pt with evidence of waxing/[**Doctor Last Name 533**] levels of
   consciousness with clear confusion in presence of liver failure
   suggestive of encephalopathy. Since intubated and sedated. With
   decreases in sedation, she is increasingly confused and agitated.
   -lactulose TID
   -propofol/fentanyl prn for sedation, sensitivity to dosing for
   decreased renal fxn
   .
   # Anemia: Had been Stable 24-26. Stool brown, guaiac negative. Patient
   has had no prior scopes to document varices.  It does not appear that
   she is actively bleeding at this point.  Transfused 2 units PRBCs for
   HCT of 17.5, on repeat 23
   -follow HCTs
   -negative Guaiac stools
   .
   # Alcoholism: On multivitamins, pyridoxine.  No acute issues.
   -con't Folate, thiamine, MVI
   .
   # GERD: Con't PPI
   .
   # FEN: holding TF b/c of residuals, replete lytes prn , phos binders.
   .
   # PPx: pneumoboots
   .
   # Access: PICC
   .
   # Code: Full- family meeting to discuss goals of care
 ALTERATION IN NUTRITION
 HYPERNATREMIA (HIGH SODIUM)
 .H/O PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, RESPIRATORY
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2155-11-20**] 05:53 PM
   20 Gauge - [**2155-11-23**] 08:38 PM
   Arterial Line - [**2155-11-23**] 11:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-11-26 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -spke w/family, will have fam mtg tomorrow to d/c code
   -D5W for hypernatremia
   -vanco level 33, held o/n dose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-11-23**] 08:27 PM
   Piperacillin - [**2155-11-24**] 06:00 PM
   Caspofungin - [**2155-11-25**] 08:54 AM
   Metronidazole - [**2155-11-26**] 12:21 AM
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-26**] 02:13 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-11-26**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 84 (79 - 99) bpm
   BP: 121/61(80) {91/45(62) - 124/63(86)} mmHg
   RR: 27 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 84 kg
   Height: 64 Inch
    Bladder pressure: 29 (29 - 29) mmHg
   Total In:
                                                                  2,604 mL
                                                                  1,004 mL
   PO:
   TF:
   IVF:
                                                                  2,524 mL
                                                                  1,004 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    450 mL
   Urine:
                                                                    365 mL
   NG:
                                                                    390 mL
                                                                    250 mL
   Stool:
                                                                    600 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,249 mL
                                                                    554 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 571 (571 - 571) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.27/24/183/10/-13
   Ve: 11 L/min
   PaO2 / FiO2: 457
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   75 K/uL
   8.9 g/dL
   142 mg/dL
   3.6 mg/dL
   10 mEq/L
   3.6 mEq/L
   95 mg/dL
   117 mEq/L
   144 mEq/L
   24.8 %
   17.0 K/uL
        [image002.jpg]
                            [**2155-11-24**]  02:59 AM
                            [**2155-11-24**]  03:35 AM
                            [**2155-11-24**]  06:01 AM
                            [**2155-11-24**]  06:23 AM
                            [**2155-11-24**]  12:15 PM
                            [**2155-11-24**]  03:59 PM
                            [**2155-11-25**]  03:14 AM
                            [**2155-11-25**]  03:31 PM
                            [**2155-11-25**]  06:06 PM
                            [**2155-11-26**]  04:05 AM
   WBC
   17.0
   20.0
   17.0
   Hct
   23.1
   23.0
   27.0
   26.2
   24.8
   Plt
   43
   65
   75
   Cr
   2.8
   3.4
   3.2
   3.6
   TCO2
   14
   15
   13
   12
   Glucose
   94
   93
   143
   142
   Other labs: PT / PTT / INR:37.3/73.9/4.0, ALT / AST:85/122, Alk Phos /
   T Bili:91/32.6, Differential-Neuts:90.6 %, Band:0.0 %, Lymph:5.4 %,
   Mono:2.2 %, Eos:1.6 %, Lactic Acid:1.2 mmol/L, Albumin:3.7 g/dL,
   LDH:201 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   53 year old female with hx of alcoholism presents with hepatic and
   renal failure.
   .
   # Respiratory Failure: Tachypnea on admission. [**2155-11-17**] V/Q scan
   negative for PE. LENI negative for DVT.  Intubated for worsening mental
   status. She is also compensating for worsening metabolic acidosis.  On
   imaging patient has multifocal pneumonia which may also be part of the
   process causing tachypnea. Sputum samples have only shown oropharyngeal
   flora. Covering with broad spectrum antibiotics for possible
   aspiration.  Intubated [**11-21**] and had large amount of aspirate
   surrounding vocal cords, continued to have large amount of secretions
   which prevented extubation. She is currently doing much better on
   minimal pressure support. However given her worsening clinical status
   we may not be able to extubate at this time. Family meeting regarding
   goals of care will guide our decision-making at this point in regards
   to her extubation and treatment.
   -continue abx, vanc and zosyn in tx for PNA
   -f/u cultures
   -continue PS
   .
   # Hepatic failure: Most likely cause is alcoholic hepatitis. Currently
   has pending hepatic work-up pending, labs that have returned include:
   CEA 5.8, AFP 1.8, Hep B negative, AMA/[**Doctor First Name **] negative, Hep C negative,
   ceruloplasmin negative, Ca [**65**]-9 elevated to > 400 Ferritin
   significantly elevated at 1446, Iron 48, TIBC 47. AFP 1.8. Will
   continue midodrine, octreotide, lactulose.  While her liver function
   has been stable over the last several days, her renal function is
   rapidly deteriorating, likely secondary to hepatorenal syndrome.
   - continue daily albumin, octreotide SC, midodrine
   - lactulose tid for goal [**2-4**] BM, continue rifaximin
   - pyridoxine 25 mg daily
   - cont following labs and cultures
   -liver recs if any
   .
   # ARF: Renal function has been worsening over the last couple of days,
   likely secondary to hepatorenal syndrome. Lasix initially then pressors
   have not improved her urine outcome. At this point it is unlikely that
   she is a HD candidate. This is also likely the reason for her
   hyperphosphatemia, for which she is receiving phos binders. At this
   time, we will continue midodrine and octreotide, treat with IV
   hydration and continue pressors. Her goals of care should be discussed
   at this point.
   -phos binders
   -monitor K and electrolytes this PM
   -continue pressors for now
   -monitor UOP
   -Ulytes, eos to r/o other etiologies of renal insufficiency
   .
   # Metabolic acidosis: AG 16, likely secondary to renal failure. Will
   continue to treat as above w/D5W, no indication for bicarb at this time
   given her hypernatremia.
   .
   # Hypernatremia
D5W 100cc/hr for 1L
   .
   #Mental Status
 pt with evidence of waxing/[**Doctor Last Name 533**] levels of
   consciousness with clear confusion in presence of liver failure
   suggestive of encephalopathy. Since intubated and sedated. With
   decreases in sedation, she is increasingly confused and agitated.
   -lactulose TID
   -propofol/fentanyl prn for sedation, sensitivity to dosing for
   decreased renal fxn
   .
   # Anemia: Had been Stable 24-26. Stool brown, guaiac negative. Patient
   has had no prior scopes to document varices.  It does not appear that
   she is actively bleeding at this point.  Transfused 2 units PRBCs for
   HCT of 17.5, on repeat 23
   -follow HCTs
   -negative Guaiac stools
   .
   # Alcoholism: On multivitamins, pyridoxine.  No acute issues.
   -con't Folate, thiamine, MVI
   .
   # GERD: Con't PPI
   .
   # FEN: holding TF b/c of residuals, replete lytes prn , phos binders.
   .
   # PPx: pneumoboots
   .
   # Access: PICC
   .
   # Code: Full- family meeting to discuss goals of care
 ALTERATION IN NUTRITION
 HYPERNATREMIA (HIGH SODIUM)
 .H/O PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, RESPIRATORY
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2155-11-20**] 05:53 PM
   20 Gauge - [**2155-11-23**] 08:38 PM
   Arterial Line - [**2155-11-23**] 11:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-11-27 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2155-11-26**] 03:25 PM
   Made CMO, Extubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2155-11-24**] 06:00 PM
   Metronidazole - [**2155-11-26**] 08:00 AM
   Caspofungin - [**2155-11-26**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2155-11-26**] 10:00 AM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-11-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-11-27**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 109 (81 - 111) bpm
   BP: 46/42(45) {46/32(42) - 121/67(83)} mmHg
   RR: 9 (8 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84 kg (admission): 84 kg
   Height: 64 Inch
             Total In:
                                                                  1,941 mL
                                                                     19 mL
   PO:
             TF:
   IVF:
                                                                  1,941 mL
                                                                     19 mL
   Blood products:
   Total out:
                                                                    662 mL
                                                                     15 mL
   Urine:
                                                                    212 mL
                                                                     15 mL
   NG:
                                                                    250 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,279 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 959 (550 - 959) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 12.6 L/min
   Physical Examination
   GEN: intubated, sedated, not responding to commands
   HEENT: scleral icterus, pupils equal sluggishly responsive
   CV: RRR S1S2
   PULM: clear bilaterally
   ABD: distended, nontender, dressing c/d/i
   EXT:warm, well perfused 1+dp pulses
   Neurologic: sedated
   Labs / Radiology
   75 K/uL
   8.9 g/dL
   142 mg/dL
   3.6 mg/dL
   10 mEq/L
   3.6 mEq/L
   95 mg/dL
   117 mEq/L
   144 mEq/L
   24.8 %
   17.0 K/uL
        [image002.jpg]
                            [**2155-11-24**]  02:59 AM
                            [**2155-11-24**]  03:35 AM
                            [**2155-11-24**]  06:01 AM
                            [**2155-11-24**]  06:23 AM
                            [**2155-11-24**]  12:15 PM
                            [**2155-11-24**]  03:59 PM
                            [**2155-11-25**]  03:14 AM
                            [**2155-11-25**]  03:31 PM
                            [**2155-11-25**]  06:06 PM
                            [**2155-11-26**]  04:05 AM
   WBC
   17.0
   20.0
   17.0
   Hct
   23.1
   23.0
   27.0
   26.2
   24.8
   Plt
   43
   65
   75
   Cr
   2.8
   3.4
   3.2
   3.6
   TCO2
   14
   15
   13
   12
   Glucose
   94
   93
   143
   142
   Other labs: PT / PTT / INR:37.3/73.9/4.0, ALT / AST:85/122, Alk Phos /
   T Bili:91/32.6, Differential-Neuts:90.6 %, Band:0.0 %, Lymph:5.4 %,
   Mono:2.2 %, Eos:1.6 %, Lactic Acid:1.2 mmol/L, Albumin:3.7 g/dL,
   LDH:201 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   53 year old female with hx of alcoholism presents with hepatic and
   renal failure.
   .
   # Respiratory Failure: Tachypnea on admission. [**2155-11-17**] V/Q scan
   negative for PE. LENI negative for DVT.  Intubated on [**11-21**] for
   worsening mental status, underlying multifocal pneumonia and tachypnea,
   with large amt of aspirate surrounding vocal cords. She has worsening
   metabolic acidosis which is playing a role in her ventilation, as is
   apparent on her ABGs.  Sputum samples have only shown oropharyngeal
   flora. She is currently doing much better on minimal pressure support.
   However given her worsening clinical status extubation may not be an
   option. A family meeting regarding goals of care will guide our
   decision-making at this point.
   -continue current antibiotics for PNA
   -continue wean down PS with goal of improving ventilation not
   extubation at this time
   -suction as needed for secretions
   -monitor ABGs with any vent changes
   .
   # Hepatic failure: Most likely cause is alcoholic hepatitis. Receiving
   midodrine, octreotide, lactulose.  Given her inability to tolerate PO
   and worsening renal failure, some of her medication, such as octreotide
   and lactulose, will be discontinued.
   - continue daily albumin
   -continue multivitamins (switch to IV if possible)
   -liver recs if any
   .
   # ARF: Renal function has been worsening over several days, likely
   secondary to hepatorenal syndrome. Lasix initially then pressors have
   not improved her urine outcome, and hemodialysis is not an option that
   will improve her outcome in the long-term. We have been repleting her
   electrolytes with care given her failing renal clearance.  As above,
   her goals of care should be discussed to guide our management.
   -monitor K and electrolytes this PM
   -continue pressors for now
   -monitor UOP
   .
   # Metabolic acidosis: Secondary to renal failure. Will continue to
   treat w/D5W, no indication for bicarb at this time given her
   hypernatremia.
   .
   #Mental Status
 pt with evidence of waxing/[**Doctor Last Name 533**] levels of
   consciousness with clear confusion in presence of liver failure
   suggestive of encephalopathy. Since intubated and sedated. With
   decreases in sedation, she is increasingly confused and agitated. She
   is not tolerating lactulose po at this time.
   -propofol/fentanyl prn for sedation, sensitivity to dosing for
   decreased renal fxn
   .
   # Anemia: Had been Stable 24-26. Stool brown, guaiac negative. Patient
   has had no prior scopes to document varices.  It does not appear that
   she is actively bleeding at this point.
   -follow CBC qd
   .
   # GERD: Con't PPI
   .
   # FEN: holding TF b/c of residuals, will d/c PO medications and try to
   switch to IV all necessary treatments, replete lytes prn with caution
   .
   # PPx: pneumoboots
   .
   # Access: PICC
   .
   # Code: Full- family meeting to discuss goals of care
 ALTERATION IN NUTRITION
 HYPERNATREMIA (HIGH SODIUM)
 .H/O PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
 .O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, RESPIRATORY
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2155-11-20**] 05:53 PM
   20 Gauge - [**2155-11-23**] 08:38 PM
   Arterial Line - [**2155-11-23**] 11:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: